US08729068B2
A mixture of 208 mg of methyl 4-{2-[4-({[2-({3-[cyclopropyl(5-methoxy-5-oxopentyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate, 1.5 mL of a 1.0 M aqueous sodium hydroxide solution, and 2.1 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure, and then to the obtained residue were added water, 300 mg of citric acid, dichloromethane, and THF in this order, and the organic layer was separated and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol). The crude product was washed with diethyl ether to obtain 163 mg of 4-{2-[4-({[2-({3-[(4-carboxybutyl)(cyclopropyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid as a colorless crystal.

reactant | methyl 4-{2-[4-({[2-({3-[cyclopropyl(5-methoxy-5-oxopentyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 208 mg | C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CCCCC(=O)OC | C41H45N3O8S2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | ethanol | 2.1 mL | C(C)O | C2H6O
product | 4-{2-[4-({[2-({3-[(4-carboxybutyl)(cyclopropyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid | 163 mg | C(=O)(O)CCCCN(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)C1CC1 | C39H41N3O8S2
